US07157476B2
2-Bromo-N-(3-(trifluoromethyl)phenyl)acetamide:
3-Trifluoromethylaniline (1.6 g, 10 mmol) was dissolved in dichloromethane with DIEA (3.4 mL, 20 mmol), cooled to 0° C., and to this solution bromoacetyl chloride was added as a neat liquid (exothermic). After 1 hour the reaction mixture was washed with 1N HCl, dried and concentrated to a brown oil which was purified by column chromatography (10 to 40% EtOAc/hexanes) to give a light brown oil, 1.8 g, 6.4 mmol, 64% yield. 1H NMR (500 MHz, CDCl3) δ 8.19 (s, 1H), 7.75 (s, 1H), 7.68 (d, J=8.1 Hz, 1H), 7.41 (t, J=7.9 Hz, 1H), 7.35 (d, J=7.8 Hz, 3.96 (s, 2H).

reactant | 3-Trifluoromethylaniline | 10 mmol, 1.6 g | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | DIEA | 20 mmol, 3.4 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | bromoacetyl chloride | BrCC(=O)Cl | C2H2BrClO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-Bromo-N-(3-(trifluoromethyl)phenyl)acetamide | 64% yield | BrCC(=O)NC1=CC(=CC=C1)C(F)(F)F | C9H7BrF3NO
